US04444788
(5Z,13E)-(9R,11R,15R,16RS)-9-Chloro-11,15-dihydroxy-16-fluoro-5,13-prostadienoic Acid Methyl Ester
A mixture of 1.2 g of (5Z,13E)-(9S,11R,15R,16RS)-9-hydroxy-16-fluoro-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadienoic acid methyl ester (prepared from the corresponding acid in methylene chloride with 0.5-molar diazomethane solution at 0° C.), 800 mg of p-toluenesulfonic acid chloride, and 4 ml of pyridine is agitated for 16 hours at 0° C., then for 48 hours at 25° C. The mixture is worked up according to Example 1. Yield: 1.45 g of the 9-tosylate as an oil.

reactant | (5Z,13E)-(9S,11R,15R,16RS)-9-hydroxy-16-fluoro-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadienoic acid methyl ester | 1.2 g | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)F)OC1OCCCC1)OC1OCCCC1)O)=O | C31H51FO7
reactant | diazomethane | 0.5-molar | [N+](=[N-])=C | CH2N2
reactant | p-toluenesulfonic acid chloride | 800 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (5Z,13E)-(9R,11R,15R,16RS)-9-Chloro-11,15-dihydroxy-16-fluoro-5,13-prostadienoic Acid Methyl Ester | COC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)F)O)O)Cl)=O | C21H34ClFO4
